US09023858B2
2-methoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
2-(Methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (60 mg) was suspended in tetrahydrofuran (2 ml), sodium methoxide (28% methanol solution, 200 mg) was added thereto under ice-cooling, and the mixture was stirred for 10 min. To the reaction mixture was added 1M hydrochloric acid (3 ml), and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained white residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (39 mg) as a white solid.

reactant | 2-(Methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 60 mg | CS(=O)C=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H12F3N3O4S
reactant | sodium methoxide | 200 mg | C[O-].[Na+]
reactant | hydrochloric acid | 1M, 3 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-methoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 39 mg | COC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H12F3N3O4
